US07304081B2
Step 1: Synthesis of 7H-spiro[furo[3,4-b]pyridine-5,3′-pyrrolidin]-7-one
A solution of 2,2,6,6-tetramethyl-piperidine (0.820 mL, 0.00486 mol) in tetrahydrofuran (5 mL, 0.06 mol) at −75 Celsius was added to 1.600 M of n-butyllithium in hexane (4.05 mL). After the mixture was stirred for 15 min, a solution of 2-pyridinecarboxylic acid (199 mg, 0.00162 mmol) was added. The resulting mixture was stirred at −75 Celsius for 10 minutes, then at −20 Celsius for 30 minutes. A solution of tert-butyl 3-oxopyrrolidine-1-carboxylate (250 mg, 0.0013 mol) in THF (2 mL) was then added to the above mixture. The reaction mixture continued to be stirred at −20 Celsius for 20 minutes, then was warmed up to r.t. and then stirred for additional 1 hour. The reaction mixture was quenched with water, then concentrated to remove THF, and then acidified to pH ˜1 using 6M aqueous HCl solution, and then stirred at r.t. overnight. The resulting mixture was extracted with methylene chloride. The aqueous layer was concentrated and the residue was directly purified by flash chromatography on silica gel column with 10% methanol in methylene chloride to give the desired compound. MS (ESI): 190.9 (M+H+).

reactant | 2,2,6,6-tetramethyl-piperidine | 0.00486 mol, 0.820 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | 1.600 M | C(CCC)[Li]
reactant | 2-pyridinecarboxylic acid | 0.00162 mmol, 199 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 0.0013 mol, 250 mg | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
solvent | hexane | 4.05 mL | CCCCCC | C6H14
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 0.06 mol, 5 mL | O1CCCC1 | C4H8O
product | 7H-spiro[furo[3,4-b]pyridine-5,3′-pyrrolidin]-7-one | N1CC2(CC1)OC(C1=NC=CC=C12)=O | C10H10N2O2
